US08633212B2
A mixture of 6-bromo-2,3-dihydro-1H-inden-1-one (1.037 g, 4.94 mmol) and 1,5-dibromo-3-methoxypentane (1.2 g, 4.94 mmol) in THF (16 mL) was added NaH (237.12 mg, 60%, 9.88 mmol) at room temperature. The mixture was refluxes for 3 h. The mixture was quenched with water and extracted with EtOAc. The organic layer was dried and concentrated to give the residue, which was purified by column chromatography to give 6′-bromo-4-methoxyspiro[cyclohexane-1,2′-inden]-1′(3′H)-one (60 mg, 4%).

reactant | 6-bromo-2,3-dihydro-1H-inden-1-one | 4.94 mmol, 1.037 g | BrC1=CC=C2CCC(C2=C1)=O | C9H7BrO
reactant | 1,5-dibromo-3-methoxypentane | 4.94 mmol, 1.2 g | BrCCC(CCBr)OC | C6H12Br2O
reactant | NaH | 9.88 mmol, 237.12 mg | [H-].[Na+]
solvent | THF | 16 mL | C1CCOC1 | C4H8O
product | 6′-bromo-4-methoxyspiro[cyclohexane-1,2′-inden]-1′(3′H)-one | 60 mg, 4% | BrC1=CC=C2CC3(C(C2=C1)=O)CCC(CC3)OC | C15H17BrO2
